US08114872B2
2-(6-Fluoro-4-iodo-pyridin-3-yloxy)-ethylamine
Add hydrazine (70 mg, 2.12 mmol) to a solution of 2-[2-(6-fluoro-4-iodo-pyridin-3-yloxy)-ethyl]-isoindole-1,3-dione (440 mg, 1.06 mmol) in ethanol (10 mL). Stir the solution at RT overnight. Filter to remove the solid and concentrate the filtrate to a light yellow solid. Purify by column chromatography (10% 2 M ammonia in methanol in methylene chloride) to afford the title compound as a light yellow oil (250 mg, 83.8%). 1H NMR (400 MHz, CD3CN) δ 2.12 (s, 2H), 3.03 (t, J=5.2 Hz, 2H), 4.10 (t, J=5.2 Hz, 2H), 7.47 (d, J=4.0 Hz, 1H), 7.69 (d, J=2.0 Hz, 1H).

reactant | hydrazine | 2.12 mmol, 70 mg | NN | H4N2
reactant | 2-[2-(6-fluoro-4-iodo-pyridin-3-yloxy)-ethyl]-isoindole-1,3-dione | 1.06 mmol, 440 mg | FC1=CC(=C(C=N1)OCCN1C(C2=CC=CC=C2C1=O)=O)I | C15H10FIN2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(6-Fluoro-4-iodo-pyridin-3-yloxy)-ethylamine | 250 mg, 83.8% | FC1=CC(=C(C=N1)OCCN)I | C7H8FIN2O
